US06004959
5-(2-Diethylamino-ethoxy)-2,4-dimethoxy-fluoren-9-one
Similar to example 3D1, prepare a solution of 2,4-dimethoxy-5-hydroxy-fluoren-9-one (0.33 g, 1.3 mmol) in methanol (8 mL) and 24 mL chlorobenzene with sodium methoxide (0.11 g, 2.0 mmole), and react the free base of 2-chloro-ethyl-diethyl amine hydrochloride 2.1 g (12 mmole) in order to obtain 0.30 g of the title compound as a reddish-orange powder. m.p. 178° C.-180° C. Analysis calculated for C21H25NO4.HCl: C, 64.36; H, 6.69; N, 3.58. Found: C, 63.99; H, 6.75; N, 3.62.

reactant | 2,4-dimethoxy-5-hydroxy-fluoren-9-one | 1.3 mmol, 0.33 g | COC1=CC=2C(C3=CC=CC(=C3C2C(=C1)OC)O)=O | C15H12O4
reactant | sodium methoxide | 2.0 mmole, 0.11 g | C[O-].[Na+]
reactant | 2-chloro-ethyl-diethyl amine hydrochloride | 12 mmole, 2.1 g | Cl.ClCCN(CC)CC
solvent | methanol | 8 mL | CO | CH4O
solvent | chlorobenzene | 24 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 5-(2-Diethylamino-ethoxy)-2,4-dimethoxy-fluoren-9-one | 0.30 g | C(C)N(CCOC1=C2C=3C(=CC(=CC3C(C2=CC=C1)=O)OC)OC)CC | C21H25NO4
